US07687491B2
(1e) (4-{5-[4-Phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-furyl)methanol
To a solution of 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxyfuran-3-carboximidamide (0.14 g, 0.50 mmol) that was obtained in Example 1 (1d) and 4-phenyl-5-(trifluoromethyl)thiophene-2-carbonyl chloride (0.17 g, 0.60 mmol) in dichloromethane (10 ml) was added N,N-diisopropylethylamine (0.17 ml, 1.0 mmol) at 0° C. with stirring, and the resulting mixture was stirred for 1 hour. After stirring, a saturated aqueous solution of sodium hydrogencarbonate (1.0 ml) was added to the reaction mixture to quench the reaction, and the resulting mixture was poured into water (20 ml) and extracted with ether. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo. Subsequently, to a solution of the residue obtained in tetrahydrofuran (1.0 ml) was added tetrabutylammonium fluoride (a 1.0 M solution in tetrahydrofuran, 0.75 ml, 0.75 mmol) with stirring, and the resulting mixture was stirred at 60° C. for 3 hours. After stirring, the reaction mixture was poured into water (20 ml) to quench the reaction and extracted with ether. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo, and the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:1) as the eluent to afford the title compound (0.20 g) in a yield of 10% as a white crystalline solid.

reactant | 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxyfuran-3-carboximidamide | 0.50 mmol, 0.14 g | [Si](C)(C)(C(C)(C)C)OCC1=CC(=CO1)C(N)=NO | C12H22N2O3Si
reactant | 4-phenyl-5-(trifluoromethyl)thiophene-2-carbonyl chloride | 0.60 mmol, 0.17 g | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C(=O)Cl | C12H6ClF3OS
reactant | N,N-diisopropylethylamine | 1.0 mmol, 0.17 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogencarbonate | 1.0 ml | C(O)([O-])=O.[Na+]
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | (4-{5-[4-Phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-furyl)methanol | yield of 10% | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C1=NC(=NO1)C=1C=C(OC1)CO | C18H11F3N2O3S
